US04014855
Preparation of 3,3-bis[pentachlorophenoxymethyl]oxetane
This reaction was carried out similarly to that described in Example 1. Pentachlorophenol (469 g., 1.86 moles), potassium carbonate (262 g., 1.9 moles), potassium iodide (4 g.) and 1.5 liters of dimethyl formamide were charged to a 3 liter reaction flask. The mixture was stirred and heated in a nitrogen atmosphere. When the temperature reached 95° C., 140 g. (0.9 moles) of 3,3-bischloromethyl oxetane was added. The reaction mixture was slowly heated to about 140° C. and held 3 hours. After cooling to 63° C., 700 ml. of water was added to the mixture. After standing overnight, the reaction mixture was filtered. The recovered crystalline 3,3-bis[pentachlorophenoxymethyl]oxetane was washed on the funnel with six portions of water, three portions of ethanol and three portions of 2-butanone. The yield of oven-dried, cream-colored crystals was 480 g. (87%). The compound melted at 229°-230° C. If desired, this compound can be recrystallized from dioxane.

reactant | Pentachlorophenol | 1.86 moles, 469 g | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | potassium carbonate | 1.9 moles, 262 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 4 g | [I-].[K+]
reactant | 3,3-bischloromethyl oxetane | 0.9 moles | ClCC1(COC1)CCl | C5H8Cl2O
solvent | water | O | H2O
solvent | dimethyl formamide | 1.5 liters | CN(C=O)C | C3H7NO
product | 3,3-bis[pentachlorophenoxymethyl]oxetane | ClC1=C(C(=C(C(=C1OCC1(COC1)COC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl)Cl)Cl)Cl)Cl | C17H8Cl10O3
